US07846954B2
Synthesized according to General procedure 3. To a stirred solution of tert-butyl 4-(3,5-dichlorophenyl)-2-methoxypyrrolidine-1-carboxylate (20 g, 0.058 mol) in acetic acid (200 mL) under N2 at 0° C. was added sodium borohydride (4.37 g, 0.116 mol) in portions over 20 minutes. The resulting solution was allowed to warm to RT and then stirred at RT for 1 hour. The reaction mixture was slowly poured into 2 M aqueous NaOH solution (500 mL) and extracted with ethyl acetate (3×500 mL). The combined organic extracts were dried over Na2SO4, filtered through a pad of Celite and then concentrated under reduced pressure to afford tert-butyl-3-(3,5-dichlorophenyl)pyrrolidine-1-carboxylate as a brown oil (18.3 g, 0.058 mol, 100% yield). 1H-NMR (400 MHz, CDCl3) δ 7.28-7.24 (m, 1H), 7.13 (d, J=1.3 Hz, 2H), 3.80-3.76 (m, 1H), 3.65 (t, J=8.4 Hz, 1H), 3.56 (t, J=8.1 Hz, 1H), 3.46-3.39 (m, 1H), 3.35-3.23 (m, 1H), 2.27 (d, J=4.3 Hz, 1H), 2.01-1.93 (m, 1H) and 1.51 (s, 9H) ppm.

reactant | tert-butyl 4-(3,5-dichlorophenyl)-2-methoxypyrrolidine-1-carboxylate | 0.058 mol, 20 g | ClC=1C=C(C=C(C1)Cl)C1CC(N(C1)C(=O)OC(C)(C)C)OC | C16H21Cl2NO3
reactant | sodium borohydride | 0.116 mol, 4.37 g | [BH4-].[Na+]
reactant | NaOH | 2 M, 500 mL | [OH-].[Na+]
solvent | acetic acid | 200 mL | C(C)(=O)O | C2H4O2
product | tert-butyl-3-(3,5-dichlorophenyl)pyrrolidine-1-carboxylate | 0.058 mol, 18.3 g, 100% yield | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC(=CC(=C1)Cl)Cl | C15H19Cl2NO2
